US07262212B2
A mixture of 4-(4-trifluoromethoxyphenoxy)piperidine (30.3 g, 0.116 mol) prepared in Reference Example 190, 2-(4-bromophenoxy)tetrahydropyran (30 g, 0.116 mol), palladium acetate (1.0 g, 4.64 mmol), BINAP (4.3 g, 6.96 mmol) and cesium carbonate (49 g, 0.151 mol) in toluene (300 ml) was refluxed under a nitrogen atmosphere for 30 hours. Ethyl acetate and water were added to the reaction mixture, which was stirred for a while. The insoluble substances were removed by filtration through Celite, and the filtrate was then extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate, and then filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=20/1) to afford 1-[4-(tetrahydropyran-2-yloxy)phenyl]-4-(4-trifluoromethoxyphenoxy)piperidine (32.6 g, yield 64%) as a yellow powder.

reactant | 4-(4-trifluoromethoxyphenoxy)piperidine | 0.116 mol, 30.3 g | FC(OC1=CC=C(OC2CCNCC2)C=C1)(F)F | C12H14F3NO2
reactant | 2-(4-bromophenoxy)tetrahydropyran | 0.116 mol, 30 g | BrC1=CC=C(OC2OCCCC2)C=C1 | C11H13BrO2
reactant | cesium carbonate | 0.151 mol, 49 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 4.64 mmol, 1.0 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | BINAP | 6.96 mmol, 4.3 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | water | O | H2O
product | 1-[4-(tetrahydropyran-2-yloxy)phenyl]-4-(4-trifluoromethoxyphenoxy)piperidine | 32.6 g, yield 64% | O1C(CCCC1)OC1=CC=C(C=C1)N1CCC(CC1)OC1=CC=C(C=C1)OC(F)(F)F | C23H26F3NO4
